US09085540B2
To a mixture of tert-butyl 3-[(5-carbamoyl-3-ethyl-6-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazin-2-yl)oxy]pyrrolidine-1-carboxylate (355 mg) and 1,2-dichloroethane (6 mL) was added trifluoroacetic acid (2 mL) under ice-cooling, followed by stirring at room temperature for 12 hours. The reaction mixture was concentrated, then diluted with chloroform, and neutralized with a 10% aqueous potassium carbonate solution. After extraction with chloroform, the organic phase was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1), and dried under reduced pressure to obtain 6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(pyrrolidin-3-yloxy)pyrazine-2-carboxamide (212 mg) as a yellow solid.

reactant | tert-butyl 3-[(5-carbamoyl-3-ethyl-6-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazin-2-yl)oxy]pyrrolidine-1-carboxylate | 355 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCN(CC1)C)OC1CN(CC1)C(=O)OC(C)(C)C)CC | C27H39N7O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
product | 6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(pyrrolidin-3-yloxy)pyrazine-2-carboxamide | 212 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C)OC1CNCC1 | C22H31N7O2
